US08084448B2
A. 5-{2-Benzyloxy-4-[(E)-2-(1,1-dioxo-1,2-thiazinan-3-yl)-vinyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A mixture of 3-vinyl-[1,2]thiazinane 1,1-dioxide (107 mg, 0.664 mmol) (J. Org. Chem. 69, 6377 (2004)), 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (250 mg, 0.563 mmol), Pd(OAc)2 (13 mg, 0.058 mmol) and triethylamine (0.768 mL, 5.51 mmol) in MeCN (4 mL) is heated at 120° C. for 1.5 h in a microwave apparatus. The reaction mixture is concentrated and the residue purified by preparative HPLC to afford the title compound.

reactant | 3-vinyl-[1,2]thiazinane 1,1-dioxide | 0.664 mmol, 107 mg | C(=C)C1NS(CCC1)(=O)=O | C6H11NO2S
reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.563 mmol, 250 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | triethylamine | 5.51 mmol, 0.768 mL | C(C)N(CC)CC | C6H15N
solvent | MeCN | 4 mL | CC#N | C2H3N
catalyst | Pd(OAc)2 | 0.058 mmol, 13 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-{2-Benzyloxy-4-[(E)-2-(1,1-dioxo-1,2-thiazinan-3-yl)-vinyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\C1NS(CCC1)(=O)=O)N1CC(NS1(=O)=O)=O | C21H23N3O6S2
